US06117873
b) Ethyl N-(2-methyl-6-nitro-4-trifluoromethylphenyl)oxamate
14.4 g (142.3 mmol) of potassium nitrate are added in small portions to an ice-cooled solution of 32.6 g (118.6 mmol) of ethyl N-(2-methyl-4-trifluoromethylphenyl)oxamate in concentrated sulfuric acid. After stirring at 0° C. for 1.5 hours, the mixture is cautiously poured onto 900 g of ice. The white suspension is extracted with ethyl acetate. The organic phase is washed with brine, dried over sodium sulfate and concentrated under reduced pressure in a rotary evaporator. Crystallization from ethyl acetate/hexane affords 35.5 g of the title compound as white crystals.

reactant | potassium nitrate | 142.3 mmol, 14.4 g | [N+](=O)([O-])[O-].[K+]
reactant | ethyl N-(2-methyl-4-trifluoromethylphenyl)oxamate | 118.6 mmol, 32.6 g | CC1=C(C=CC(=C1)C(F)(F)F)NC(C(=O)OCC)=O | C12H12F3NO3
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | Ethyl N-(2-methyl-6-nitro-4-trifluoromethylphenyl)oxamate | 35.5 g | CC1=C(C(=CC(=C1)C(F)(F)F)[N+](=O)[O-])NC(C(=O)OCC)=O | C12H11F3N2O5
